US06861438B2
N-(4-chlorobenzyl)-4-methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydrothieno [3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (50 mg, 0.13 mmol), morpholine (17.4 mg, 0.20 mmol) and diisopropylethylamine (35 μL, 0.20 mmol) in dry DMF (2.7 mL) was heated to 60° C., becoming a solution. The reaction was stirred for 3 hours at that temperature. After cooling to room temperature, the solution was diluted with water (5 mL). The resulting milky suspension was stirred vigorously for 30 minutes, and then left standing overnight at room temp. The mixture was filtered, and the collected solid was washed with water and dried in vacuo, leaving a white solid. Recrystallization from acetonitrile (10 mL) gave the title compound (48 mg) as a flocculent white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.13 mmol, 50 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C=C(S3)CCl)=O)C=C1 | C17H14Cl2N2O2S
reactant | morpholine | 0.20 mmol, 17.4 mg | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 0.20 mmol, 35 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2.7 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | N-(4-chlorobenzyl)-4-methyl-2-(morpholin-4-ylmethyl)-7-oxo-4,7-dihydrothieno [3,2-b]pyridine-6-carboxamide | 48 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C=C(S3)CN3CCOCC3)=O)C=C1 | C21H22ClN3O3S
